US07507740B2
(i) Production of 4-chloro-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine
4-Chloro-5H-pyrrolo[3,2-d]pyrimidine (1 g) was dissolved in N,N-dimethylformamide (13 mL), cesium carbonate (6.37 g) and 2-bromo-1,1-diethoxyethane (2.94 mL) were sequentially added and the mixture was stirred at 80° C. for 4.5 hrs. The reaction mixture was diluted with ethyl acetate (100 mL), and washed with water (80 mL). The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50→0/100) to give the title compound (1.26 g) as a yellow oil.

reactant | 4-Chloro-5H-pyrrolo[3,2-d]pyrimidine | 1 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | cesium carbonate | 6.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1,1-diethoxyethane | 2.94 mL | BrCC(OCC)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-5-(2,2-diethoxyethyl)-5H-pyrrolo[3,2-d]pyrimidine | 1.26 g | ClC=1C2=C(N=CN1)C=CN2CC(OCC)OCC | C12H16ClN3O2
